US08242104B2
A mixture of 4-bromo-2-fluoro-benzimidic acid ethyl ester hydrochloride (20.3 g, 72 mmol) in IMS (250 mL) at 0-5° C. was saturated with NH3 (gas), and the flask sealed before allowing to warm to RT and stirring for 18 h. Solvent was removed in vacuo and the residue triturated in diethyl ether to give 4-Bromo-2-fluoro-benzamidine hydrochloride as a white solid (18.1 g, 100%). 1H NMR δ (ppm) (DMSO-d): 9.26 (4H, s), 7.92-7.87 (1H, m), 7.71-7.62 (2H, m).

reactant | 4-bromo-2-fluoro-benzimidic acid ethyl ester hydrochloride | 72 mmol, 20.3 g | Cl.C(C)OC(C1=C(C=C(C=C1)Br)F)=N
reactant | NH3 | N | H3N
product | 4-Bromo-2-fluoro-benzamidine hydrochloride | 18.1 g, 100% | Cl.BrC1=CC(=C(C(=N)N)C=C1)F | InChI=1S/C7H6BrFN2.ClH/c8-4-1-2-5(7(10)11)6(9)3-4;/h1-3H,(H3,10,11);1H
